* C:\Users\Taiping\Documents\Midnight Sun\hardware\MSXII_PreChargeController\Simulations\Comparator.asc
XU1 N006 N004 VDD 0 N005 LT1720
R1 N005 0 1000
V1 N003 0 150
R2 N001 N004 470k
R3 N002 N006 470k
R5 N004 0 31.4k
R4 N006 0 33k
V2 VDD 0 12
R6 N002 N001 72
C1 N002 0 10000µ
V3 N001 N003 SINE(0 1 1k 0 0 0 10000)
R7 N005 N006 {Rh}
.tran 5 startup
.step param Rh list 1Meg 5Meg 10Meg 50Meg 100Meg
.lib LTC.lib
.backanno
.end
